Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transferred to ___ to be closer to NICU, delivered at 35 weeks 
at outside hospital
 
Major Surgical or Invasive Procedure:
cesarean section

 
History of Present Illness:
No current complaints.  Uncomplicated RLTCS and BTL for PTL at 
35 weeks.
 
Past Medical History:
none
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: T-98.9  HR-97  BP-96/58  RR-18
Gen: NAD
Abd: firm fundus 1 cm below umbilicus
Pad: minimal lochia
GU: foley in place 
Ext: nontender
 
Pertinent Results:
Prenatal labs: B neg, Ab neg, HIV neg, RPR NR, Hep B neg, 
Rubella 26
 
Brief Hospital Course:
The patient was transferred to be closer to her baby, who was 
transferred to the ___ NICU.  She had an uncomplicated 
post-partum course and went home on POD#4.
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0
3. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every ___ hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
postpartum from cesarean delivery at 35 weeks, transfer to be 
closer to baby in neonatal intensive care
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
pelvic rest 6 weeks, no heavy lifting 6 weeks, no driving while 
taking narcotics
 
Followup Instructions:
___